US08138197B2
Methyl 3-{[ethoxymethyl]tetrazol-5-yl}-5-pyrrolidin-1-ylbenzoate
Pyrrolidine (41 mg), Pd2(dba)3 (35 mg), tBu2-P-Ph-Ph (23 mg) and potassium phosphate (241 mg) were added in that order to a DME (5 mL) solution of methyl 3-{[(trifluoromethyl)-sulfonyl]oxy}-5-[({[2-(trimethylsilyl)ethyl]oxy}methyl)tetrazol-5-yl]benzoate (183 mg), and stirred at 85° C. for 4 hours. The reaction liquid was filtered through Celite, the solvent was evaporated away, the residue was diluted with ethyl acetate, water was added thereto, and the solution was extracted with ethyl acetate. The organic layer was washed with saturated saline water, dried with anhydrous sodium sulfate, filtered, and the solvent was evaporated away. The residue was purified through silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound as a red oil.

reactant | Pyrrolidine | 41 mg | N1CCCC1 | C4H9N
reactant | potassium phosphate | 241 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | methyl 3-{[(trifluoromethyl)-sulfonyl]oxy}-5-[({[2-(trimethylsilyl)ethyl]oxy}methyl)tetrazol-5-yl]benzoate | 183 mg | FC(S(=O)(=O)OC=1C=C(C(=O)OC)C=C(C1)C1=NN=NN1COCC[Si](C)(C)C)(F)F | C16H21F3N4O6SSi
catalyst | Pd2(dba)3 | 35 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DME | 5 mL | COCCOC | C4H10O2
product | Methyl 3-{[ethoxymethyl]tetrazol-5-yl}-5-pyrrolidin-1-ylbenzoate | C(C)OCN1N=NN=C1C=1C=C(C(=O)OC)C=C(C1)N1CCCC1 | C16H21N5O3
